US07157455B2
Trans-[4-Amino-2-(4-amino-cyclohexylamino)-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone
The title compound was prepared as in Example 113 and Example 114 using (4-amino-cyclohexyl)-carbamic acid tert-butyl ester (Altech) and (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanone Example 103. MS (M+H)+=378.

reactant | (4-amino-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCC(CC1)N)=O | C11H22N2O2
reactant | (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(2,3-difluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1OC)F)F)S(=O)(=O)CC | C14H13F2N3O4S
product | Trans-[4-Amino-2-(4-amino-cyclohexylamino)-pyrimidin-5-yl]-(2,3-difluoro-6-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C(=CC=C1OC)F)F)N[C@@H]1CC[C@H](CC1)N | C18H21F2N5O2
